US07947680B2
Step 2: 4-Methyl-pyrimidine-2-carboxylic acid
The solution of 4-methyl-pyrimidine-2-carbonitrile (500 mg, 4.20 mmol) and sodium hydroxide (504 mg, 12.6 mmol) in water (12.5 mL) was stirred at 60° C. for 1 hour. The reaction mixture was cooled to room temperature, acidified to pH ˜2 with citric acid and extracted with CHCl3:i-PrOH (3:1, 2×20 mL). The combined organic layers were dried over MgSO4 and concentrated under reduced pressure to afford 0.294 g of the title compound, 4-methyl-2-pyrimidinecarboxylic acid (51%), which was used in the next step without further purification. 1H NMR, (300 MHz, D2O) δ8.50 (d, J=5.2 Hz, 1H), 7.31 (d, J=5.3 Hz, 1H).

reactant | 4-methyl-pyrimidine-2-carbonitrile | 4.20 mmol, 500 mg | CC1=NC(=NC=C1)C#N | C6H5N3
reactant | sodium hydroxide | 12.6 mmol, 504 mg | [OH-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | water | 12.5 mL | O | H2O
product | 4-Methyl-pyrimidine-2-carboxylic acid | 0.294 g | CC1=NC(=NC=C1)C(=O)O | C6H6N2O2
